US04705904
In this single stage case, the hexafluoroacetone (6FK) produced may be assayed by continuous adsorption in water. Hexafluoroacetone trihydrate (6FK.3H2,0) which was produced may then be determined by direct GLC analysis using an internal standard. Alternatively, 6FK.3H2, may be determined by potentiometric titration against a standard NaOH. Titer to pH of 4 is due to hydrogenfluoride, if present; titer from pH of 4 to pH of 9 is due to 6FK.3H2 0. Optionally, the 6FK may be recovered by passage through a dry ice condensing system to give 6FK liquid (BP-28° C.).

reactant | hexafluoroacetone | FC(C(=O)C(F)(F)F)(F)F | C3F6O
solvent | water | O | H2O
product | Hexafluoroacetone trihydrate | O.O.O.FC(C(=O)C(F)(F)F)(F)F | InChI=1S/C3F6O.3H2O/c4-2(5,6)1(10)3(7,8)9;;;/h;3*1H2
